US07919628B2
A solution of 0.257 g of 5-fluoro-1-hydroxynaphthalene in 6 ml of dry dichloromethane was cooled in an ice/salt bath after which was added 0.36 ml (2.07 mmol) of ethyl diisopropylamine followed by 0.15 ml (0.16 g, 1.96 mmol) of chloromethylmethyl ether. The mixture was stirred at 0° C. for 0.5 h after which it was allowed to warm to RT and stirred at RT for 11 h. The mixture was poured into saturated sodium carbonate solution, extracted twice with dichloromethane, dried, filtered and concentrated to an oil. The material was dissolved in a minimum volume of dichloromethane and flash chromatographed on silica gel, eluting with ethyl acetate/heptane to provide 0.260 g (79%) of 5-fluoro-1-methoxymethyloxynaphthalene.

reactant | 5-fluoro-1-hydroxynaphthalene | 0.257 g | FC1=C2C=CC=C(C2=CC=C1)O | C10H7FO
reactant | ethyl diisopropylamine | 2.07 mmol, 0.36 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethylmethyl ether | 1.96 mmol, 0.15 ml, 0.16 g | ClCOC | C2H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 5-fluoro-1-methoxymethyloxynaphthalene | 0.260 g, 79% | FC1=C2C=CC=C(C2=CC=C1)OCOC | C12H11FO2
